US07589232B2
Step b) Formation of 3-[(4-dec-1-yn-1-ylbenzyl)(hexanoyl)amino]benzoic acid
The titled compound was prepared following the procedure F using methyl 3-[(4-dec-1-yn-1-ylbenzyl)(hexanoyl)amino]benzoate and NaOH 5N aq in the presence of MeOH as a pale yellow oil (89%). 1H NMR (CDCl3, 300 MHz) δ 8.06 (d, J=7.5 Hz, 1H), 7.82 (s, 1H), 7.43 (m, 1H), 7.31 (d, J=8.3 Hz, 2H), 7.12 (m, 3H), 4.91 (s, 2H), 2.39 (t. J=7.0 Hz, 2H), 2.07 (m, 2H), 1.60 (m, 4H), 1.44 (m, 2H), 1.35-1.17 (m, 12H), 0.86 (m, 6H). M− (ESI): 460.6; M+ (ESI): 462.5. HPLC, Rt: 5.65 min (Purity: 99.5%).

reactant | methyl 3-[(4-dec-1-yn-1-ylbenzyl)(hexanoyl)amino]benzoate | C(#CCCCCCCCC)C1=CC=C(CN(C=2C=C(C(=O)OC)C=CC2)C(CCCCC)=O)C=C1 | C31H41NO3
reactant | NaOH | 5N | [OH-].[Na+]
solvent | MeOH | CO | CH4O
product | 3-[(4-dec-1-yn-1-ylbenzyl)(hexanoyl)amino]benzoic acid | C(#CCCCCCCCC)C1=CC=C(CN(C=2C=C(C(=O)O)C=CC2)C(CCCCC)=O)C=C1 | C30H39NO3
